US06194425B1
A catalytic amount of 5% platinum on carbon was added to a suspension of N5-(2-methylpropyl)-4-nitrotetrazolo[1,5-a][1,8]naphthyridine-5-amine (2.45 g, 8.5 mmoles) in ethanol (120 mL). The reaction mixture was reduced on a Parr apparatus at 50 psi (3.5 Kg/cm2) hydrogen for 2 hours. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under vacuum to provide N5-(2-methylpropyl)tetrazolo[1,5-a][1,8]naphthyridin-4,5-diamine as an oil.

reactant | N5-(2-methylpropyl)-4-nitrotetrazolo[1,5-a][1,8]naphthyridine-5-amine | 8.5 mmoles, 2.45 g | CC(CNC1=C(C=2N(C3=NC=CC=C13)N=NN2)[N+](=O)[O-])C | C12H13N7O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | [Pt] | Pt
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | N5-(2-methylpropyl)tetrazolo[1,5-a][1,8]naphthyridin-4,5-diamine | CC(CNC1=C(C=2N(C3=NC=CC=C13)N=NN2)N)C | C12H15N7
